US07067658B2
Trifluoro-methanesulfonic acid 4-(2-chloro-4-methoxy-phenyl)-3-nitro-pyridin-2-yl ester(0.50 g, 1.21 mmol), prepared substantially as described in Part C of Example 19a, and 1-propyl-butylamine (0.28 g, 2.42 mmol) were treated in the same manner as in Part C of Example 19a to produce 0.31 g (69%) of [4-(2-chloro-4-methoxy-phenyl)-3-nitro-pyridin-2-yl]-(1-propyl-butyl)-amine: MS (AP) m/z 377.9 [(M+H)+, 100].

reactant | Trifluoro-methanesulfonic acid 4-(2-chloro-4-methoxy-phenyl)-3-nitro-pyridin-2-yl ester | 1.21 mmol, 0.50 g | ClC1=C(C=CC(=C1)OC)C1=C(C(=NC=C1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C13H8ClF3N2O6S
reactant | 1-propyl-butylamine | 2.42 mmol, 0.28 g | C(CC)C(CCC)N | C7H17N
product | [4-(2-chloro-4-methoxy-phenyl)-3-nitro-pyridin-2-yl]-(1-propyl-butyl)-amine | 0.31 g, 69% | ClC1=C(C=CC(=C1)OC)C1=C(C(=NC=C1)NC(CCC)CCC)[N+](=O)[O-] | C19H24ClN3O3
